US03959259
60 g. (0.22 moles) of 3-(phenylmethyl)-5-trichloromethyl-1,2,4-oxadiazole is dissolved in 100 ml. of ethanol. The solution is stirred and 132 ml. (0.264 mole) of 2N sodium hydroxide solution are added dropwise. The temperature of the mixture rises to about 40°. After the addition has been completed, the mixture is stirred for an additional 30 minutes and then concentrated in a rotary evaporator. The residue is treated with water, filtered and the filtrate is acidified with 2N hydrochloric acid. The crystals are filtered under suction, and purified by dissolving in sodium bicarbonate solution, filtering and precipitating with dilute hydrochloric acid. 29.7 g. of 3-(phenylmethyl)-1,2,4-oxadiazol-5-(4H)-one are obtained, m.p. 114°-116°.

reactant | 3-(phenylmethyl)-5-trichloromethyl-1,2,4-oxadiazole | 0.22 moles | C1(=CC=CC=C1)CC1=NOC(=N1)C(Cl)(Cl)Cl | C10H7Cl3N2O
reactant | sodium hydroxide | 0.264 mole, 2N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-(phenylmethyl)-1,2,4-oxadiazol-5-(4H)-one | C1(=CC=CC=C1)CC1=NOC(N1)=O | C9H8N2O2
